US06541505B1
4-(3-Methoxycarbonyl-phenyl)-Benzaldehyde.
Using essentially the same procedure used in reference example 97a except using methyl 3-bromo-benzoate as substrate in place of 5-bromo-(2-[t-butyldiphenylsilyloxy]-pyrimidine and using the following modified workup: On cooling to room temperature, the reaction mixture is diluted with ethyl acetate and washed with hydrochloric acid (2M) then brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 20% ethyl acetate/5% dichloromethane in hexanes) to give the title compound as a yellow solid. MS (EI) m/z 240 (M)+.

reactant | methyl 3-bromo-benzoate | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | 2-[t-butyldiphenylsilyloxy]-pyrimidine | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=NC=CC=N1 | C20H22N2OSi
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Methoxycarbonyl-phenyl)-Benzaldehyde | COC(=O)C=1C=C(C=CC1)C1=CC=C(C=O)C=C1 | C15H12O3
